US05120347
c. 1-t-Butyl-3-(3-chlorophenyl)-4-ethyl-1,2,4-triazolin-5-one
A solution of 1-(3-chloro-benzoyl)-2-t-butyl-4-ethyl semicarbazide (2.0 g, 0.067 mole) in 5% potassium hydroxide (40 mL) was refluxed for 20 hours, then cooled to room temperature and extracted with ethyl acetate (3×60 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL), dried with sodium sulfate and filtered. The solvent was removed in vacuo to give a yellow liquid (1.2 g, 64% yield).

reactant | 1-(3-chloro-benzoyl)-2-t-butyl-4-ethyl semicarbazide | 0.067 mole, 2.0 g | ClC=1C=C(C(=O)NN(C(=O)NCC)C(C)(C)C)C=CC1 | C14H20ClN3O2
solvent | potassium hydroxide | 40 mL | [OH-].[K+]
product | 1-t-Butyl-3-(3-chlorophenyl)-4-ethyl-1,2,4-triazolin-5-one | 1.2 g, 64% yield | C(C)(C)(C)N1N=C(N(C1=O)CC)C1=CC(=CC=C1)Cl | C14H18ClN3O
